US08802668B2
Methanesulfonic acid 2-[tert-butoxycarbonyl-(5-fluoro-1H-indol-7-ylmethyl)-amino]-ethyl ester
Add triethylamine (4.64 mL, 33.3 mmol) followed by methanesulfonyl chloride (1.29 mL, 16.65 mmol) to a solution of (5-fluoro-1H-indol-7-ylmethyl)-(2-hydroxyethyl)-carbamic acid tert-butyl ester (4.9 g, assume 15.14 mmol) in dichloromethane (70 mL) at 0° C. Stir the reaction mixture for 30 minutes at 0° C. Dilute with ethyl acetate (200 mL), wash with sequentially with saturated aqueous sodium bicarbonate (200 mL×3) and saturated aqueous sodium chloride (200 mL×2). Dry the organic phase over sodium sulfate and concentrate under reduced pressure to provide the desired compound as a yellow brown oil (5.9 g, >100%).

reactant | triethylamine | 33.3 mmol, 4.64 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 16.65 mmol, 1.29 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (5-fluoro-1H-indol-7-ylmethyl)-(2-hydroxyethyl)-carbamic acid tert-butyl ester | 15.14 mmol, 4.9 g | C(C)(C)(C)OC(N(CCO)CC=1C=C(C=C2C=CNC12)F)=O | C16H21FN2O3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | Methanesulfonic acid 2-[tert-butoxycarbonyl-(5-fluoro-1H-indol-7-ylmethyl)-amino]-ethyl ester | 5.9 g, >100% | C(C)(C)(C)OC(=O)N(CCOS(=O)(=O)C)CC=1C=C(C=C2C=CNC12)F | C17H23FN2O5S
